US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 16.4 g (0.0511 mole) of 4-(4-iodo-2-methylphenyl)-2-methyl-3-thiosemicarbazide with 11.8 g (0.0562 mole) of trifluoroacetic anhydride in 150 ml of toluene yielded 17.4 g of 3-trifluoromethyl-4,5-dihydro-1-methyl-4-(4-iodo-2-methylphenyl)-1,2,4-triazol-5(1H)-thione as a solid, mp 104°-107° C., Compound 106 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 4-(4-iodo-2-methylphenyl)-2-methyl-3-thiosemicarbazide | 0.0511 mole, 16.4 g | IC1=CC(=C(C=C1)NC(N(N)C)=S)C | C9H12IN3S
reactant | trifluoroacetic anhydride | 0.0562 mole, 11.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-trifluoromethyl-4,5-dihydro-1-methyl-4-(4-iodo-2-methylphenyl)-1,2,4-triazol-5(1H)-thione | 17.4 g | FC(C1=NN(C(N1C1=C(C=C(C=C1)I)C)=S)C)(F)F | C11H9F3IN3S
